US08097617B2
Step 12.3: 6-(2,4-Dichloro-phenyl)-8-isobutylamino-imidazo[1,2-a]pyridine-7-carbonitrile.
In a sealed tube, a mixture of 8-chloro-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbonitrile (20 mg, 0.062 mmol) and isobutylamine (0.037 mL, 0.37 mmol) was heated at 150° C. for 14 h. The reaction mixture was cooled to RT, poured into AcOEt (5 mL) and washed with a 2.0 M Na2CO3 solution in water (2×2 mL). The organic layer was dried over Na2SO4, filtered and evaporated. The residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, [hexane/DCM 1:1]/TBME 95:5→8:2) to yield the title compound (19.1 mg, 0.053 mmol, 85%) as a reddish solid. MS: 359 [M+1]+; HPLC: AtRet=2.61; TLC: RF 0.64 (hexane/DCM/TBME 1:1:2).

reactant | 8-chloro-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbonitrile | 0.062 mmol, 20 mg | ClC=1C=2N(C=C(C1C#N)C1=C(C=C(C=C1)Cl)Cl)C=CN2 | C14H6Cl3N3
reactant | isobutylamine | 0.37 mmol, 0.037 mL | C(C(C)C)N | C4H11N
solvent | AcOEt | 5 mL | CCOC(=O)C | C4H8O2
product | 6-(2,4-Dichloro-phenyl)-8-isobutylamino-imidazo[1,2-a]pyridine-7-carbonitrile | 0.053 mmol, 19.1 mg, 85% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(C=2N(C1)C=CN2)NCC(C)C)C#N | C18H16Cl2N4
